US04502882
Methyl(4,6-dimethoxy-1,3,5-triazin-2-yl)carbamate
2-Amino-4,6-dimethoxy-1,3,5-triazine (55.3 g) was added portionwise to 50% sodium hydride (38.0 g) in 1000 ml dry tetrahydrofuran at ambient temperature under nitrogen. After the reaction mixture was stirred for 1.25 hours, dimethylcarbonate (50.0 g) was added dropwise. The reaction mixture was stirred 16 hours at ambient temperature under nitrogen and concentrated hydrochloric acid (68 ml) was slowly added followed by 100 ml tetrahydrofuran. Insoluble material was removed via filtration and discarded. The filtrate was dried and the solvent removed under reduced pressure to give a solid which upon crystallization from ethanol afforded 43.9 g of the title compound, m.p. 118°-122° C.

reactant | 2-Amino-4,6-dimethoxy-1,3,5-triazine | 55.3 g | NC1=NC(=NC(=N1)OC)OC | C5H8N4O2
reactant | sodium hydride | 38.0 g | [H-].[Na+]
reactant | dimethylcarbonate | 50.0 g | COC(OC)=O | C3H6O3
reactant | hydrochloric acid | 68 ml | Cl | ClH
solvent | tetrahydrofuran | 1000 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | Methyl(4,6-dimethoxy-1,3,5-triazin-2-yl)carbamate | 43.9 g | COC(NC1=NC(=NC(=N1)OC)OC)=O | C7H10N4O4
